US08377911B2
Step C: (3S)-3-(4-chlorophenyl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-yl 1-[(Z)-butoxy-NNO-azoxy]-L-prolinate
To a solution of (3S)-3-(4-chlorophenyl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridine-7-ol (346 mg, 1.32 mmol), 1-[(Z)-butoxy-NNO-azoxy]-L-proline (306 mg, 1.32 mmol), and triethylamine (369 mL, 2.65 mmol) in CH2Cl2 (10 mL) was added BOP-Cl (438 mg, 1.72 mmol). After stirring at rt over night, the mixture was purified by flash chromatography (Biotage 40+M) using 40-50% EtOAc/hexane gradient, affording the title compound: 1H NMR (500 MHz, CDCl3) δ 8.05 (s, 1H), 7.35-7.33 (m, 2H), 7.28-7.25 (m, 2H), 6.19 (s, 1H), 5.21 (dd, J=2.4, 14.1 Hz, 1H), 5.07 (dd, J=1.9, 14.2 Hz, 1H), 4.78 (dd, J=4.5, 14.1 Hz, 1H), 4.20 (t, 6.7 Hz, 2H), 3.93-3.88 (m, 1H), 3.73-3.68 (m, 1H), 2.54-2.48 (m, 1H), 2.47 (s, 3H), 2.26-2.15 (m, 3H), 1.76-1.70 (m, 2H), 1.45-1.38 (m, 2H), 0.93 (t, J=7.4 Hz, 3H).

reactant | (3S)-3-(4-chlorophenyl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridine-7-ol | 1.32 mmol, 346 mg | ClC1=CC=C(C=C1)[C@@H]1OCC2=C1C=NC(=C2O)C | C14H12ClNO2
reactant | 1-[(Z)-butoxy-NNO-azoxy]-L-proline | 1.32 mmol, 306 mg | C(CCC)O\N=[N+](/[O-])\N1[C@H](C(=O)O)CCC1 | C9H17N3O4
reactant | triethylamine | 2.65 mmol, 369 mL | C(C)N(CC)CC | C6H15N
reactant | BOP-Cl | 1.72 mmol, 438 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (3S)-3-(4-chlorophenyl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-yl 1-[(Z)-butoxy-NNO-azoxy]-L-prolinate | C(CCC)O\N=[N+](/[O-])\N1[C@H](C(=O)OC=2C3=C(C=NC2C)[C@@H](OC3)C3=CC=C(C=C3)Cl)CCC1 | C23H27ClN4O5
